US04631277
In a 10-liter reactor there were introduced 633.4 g (5.19 moles) of salicylaldehyde, 5 liters of acetone and 717.3 g of potassium carbonate, and the mixture was left with stirring at room temperature. After precipitation of the phenate, 836 g (5.19 moles) of 3-bromocyclohexene were rapidly added dropwise, and the mixture was brought to reflux for 21/2 hours. After removal of the inorganic salts by filtration, and evaporation of the solvent, the residue was taken up in ethyl ether, washed with 10% caustic soda and then water, and the ether phase was then dried over Na2SO4. After filtration and elimination of the ether, there were obtained 975 g of 3-(2-formylphenoxy)cyclohexene, which was used directly in the following stage.

reactant | salicylaldehyde | 5.19 moles, 633.4 g | C(C=1C(O)=CC=CC1)=O | C7H6O2
reactant | potassium carbonate | 717.3 g | C([O-])([O-])=O.[K+].[K+]
reactant | 3-bromocyclohexene | 5.19 moles, 836 g | BrC1C=CCCC1 | C6H9Br
solvent | acetone | 5 liters | CC(=O)C | C3H6O
product | 3-(2-formylphenoxy)cyclohexene | 975 g | C(=O)C1=C(OC2C=CCCC2)C=CC=C1 | C13H14O2
